US05441946
To a stirred solution of trimethylsilyl ethanol (1.2 mmol, 0.14 g) in THF (3.8 mL) under argon at room temperature is added 1M solution of potassium tert- butoxide in THF (1.2 mL, 1.19 mmol) The reaction mixture is stirred for 40 minutes and then added dropwise over 5-10 minutes to a stirred solution of the above phenyl urethane (0.45 g, 1.1 mmol) in THF (3.8 ml) at 5° C. The reaction mixture is stirred at this temperature for 20 minutes and then warmed to room temperature for 16 hours. After refluxing for 40 minutes the reaction is cooled to room temperature and partitioned between ethyl acetate and water; the aqueous phase is extracted twice with ethyl acetate. The combined organic phases are washed with brine, dried (Na2SO4) and concentrated. The residue is purified by flash chromatography (10% ethyl acetate/hexane) to give the intermediate silylethoxy urethane (0.22 g, 48%); Rf=0.56 (20% ethyl acetate/hexane). MS (El) m/z (419 M+).

reactant | trimethylsilyl ethanol | 1.2 mmol, 0.14 g | C[Si](C)(C)C(C)O | C5H14OSi
reactant | potassium tert- butoxide | CC(C)([O-])C.[K+]
reactant | phenyl urethane | 1.1 mmol, 0.45 g | C1(=CC=CC=C1)NC(=O)OCC | C9H11NO2
solvent | THF | 3.8 mL | C1CCOC1 | C4H8O
solvent | THF | 3.8 ml | C1CCOC1 | C4H8O
solvent | THF | 1.19 mmol, 1.2 mL | C1CCOC1 | C4H8O
product | silylethoxy urethane | 0.22 g, 48% | [SiH3]CCONC(=O)OCC | C5H13NO3Si
